US07241785B2
A mixture of methyl 3-[2-(4-hydroxyphenylthio)-4-phenyl-5-oxazolyl]propionate (450 mg), 4-chloromethyl-5-methyl-2-phenyloxazole (263 mg), potassium carbonate (351 mg) and N,N-dimethylformamide (5 ml) was stirred at 50° C. for 3 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylthio]-4-phenyl-5-oxazolyl]propionate (609 mg, yield 91%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | methyl 3-[2-(4-hydroxyphenylthio)-4-phenyl-5-oxazolyl]propionate | 450 mg | OC1=CC=C(C=C1)SC=1OC(=C(N1)C1=CC=CC=C1)CCC(=O)OC | C19H17NO4S
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 263 mg | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | potassium carbonate | 351 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylthio]-4-phenyl-5-oxazolyl]propionate | 609 mg, yield 91% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)SC=1OC(=C(N1)C1=CC=CC=C1)CCC(=O)OC | C30H26N2O5S
